US07279575B2
2-(2-Benzoylamino-pyrimidin-4-yl)-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester
To a mixture of 2-(2-Amino-pyrimidin-4-yl)-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester and Et3N (4 eq.) in dry THF, PhCOCl (2 eq.) was added and the mixture was stirred at room temperature under argon overnight. Thus NaOH(1N) was added; after 30′ the solvent was evaporated and the residue was dissolved in water and the aqueous phase was extracted with AcOEt (2×). The organic phase was then washed with aq. NH4Cl and dried over Na2SO4. After solvent evaporation the crude product was purified by flash chromatography (CH2Cl2:MeOH 97:3) to give the pure product as a solid.

reactant | 2-(2-Amino-pyrimidin-4-yl)-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)NC(=C2)C2=NC(=NC=C2)N)=O | C16H19N5O3
reactant | Et3N | 4 eq. | CCN(CC)CC | C6H15N
reactant | PhCOCl | 2 eq. | C1(=CC=CC=C1)C(=O)Cl | C7H5ClO
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2-Benzoylamino-pyrimidin-4-yl)-4-oxo-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)NC(=C2)C2=NC(=NC=C2)NC(C2=CC=CC=C2)=O)=O | C23H23N5O4
